US04036843
To 8.7 g (0.041 mol) 2-phenyl-4,4-dimethyl-1,3-oxazoline hydrochloride suspended in 120 ml anhydrous hydrogen chloride in tetrahydrofuran (1M) was added 3.6 ml (0.20 mol) water. The mixture was warmed to cause solution and heated under reflux with stirring for 1 hour. The tetrahydrofuran was removed under reduced pressure to afford a nearly colorless oil which crystallized at 0° following the addition of anhydrous ether. The solid was triturated with anhydrous ether overnight and isolated by filtration under a nitrogen atmosphere. After drying in vacuo over calcium sulfate, 6.9 g (0.30 mol), 73%, 2 -amino-2-methyl-1-propyl benzoate hydrochloride was obtained as a white solid, mp 225°-228° (dec.) acetone:hexane, ir (KBr) 1725 (c=o) cm-1, pmr (D2O) δ 1.50 (s, 6H), 4.4 (s, 2H) and 7.0 - 8.3 (m, 5H) ppm.

reactant | 2-phenyl-4,4-dimethyl-1,3-oxazoline hydrochloride | 0.041 mol, 8.7 g | Cl.C1(=CC=CC=C1)C=1OCC(N1)(C)C
reactant | water | 0.20 mol, 3.6 ml | O | H2O
solvent | hydrogen chloride | 120 ml | Cl | ClH
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 2 -amino-2-methyl-1-propyl benzoate hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OCC(C)(C)N | InChI=1S/C11H15NO2.ClH/c1-11(2,12)8-14-10(13)9-6-4-3-5-7-9;/h3-7H,8,12H2,1-2H3;1H
